US06426418B1
Preparation of 3-(Benzyloxy)-N,N-diethyl-1,6-dimethyl-4-oxo-1,4-dihydropyridine-2-carboxamide
1,1′-carbonyldiimidazole (1.87 g, 111.53 mmol) was added to a solution of the 3-(benzyloxy)-6-methyl-4-oxo-4H-pyran-2-carboxylic acid (2.0 g, 7.69 mmol) in DMF (15 ml) at room temperature. The resulting solution was heated at 40° C. for 3 hrs. A clear yellow solution was observed. Diethylamine (1.08 ml, 9.2 mmol) was added. The reaction mixture was stirred at 40 to 45° C. for 2 hrs. The reaction was cooled to room temperature at which time a solution of methylamine in methanol (11 ml of 2M solution in methanol, 15.4 mmol) was added. The solution was stirred at 65 to 70° C. for 15 hrs under pressure. The solvent was removed under reduced pressure and dichloromethane was added (70 ml). The solution was washed with water and dried over magnesium sulfate (1 g). Solvent evaporation gave light yellow oil as a crude product. The column was eluted with 10% to 25% methanol in ethyl acetate to give the titled compound (1.74 g, yield 67%). H-NMR (CDCl3) σδ: 1.09 (t, J=7.11 Hz, 3H, Me), 1.16 (t, J=7.04 Hz 3H, Me), 2.34 (s, 3H, Me), 3.13-3.30 (m, 2H, CH2), 3.47 (s, 3H, NMe), 3.50-3.60 (m, 2H, CH2), 4.91(d, J=10.76 Hz, 1H, CH2), 5.52(d, J=10.74 Hz, 1H, CH2), 6.41 (s, 1H, CH), 7.10-7.33 (m, 5H, Ph), Mass spect. 329 (M+1).

reactant | 1,1′-carbonyldiimidazole | 111.53 mmol, 1.87 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-(benzyloxy)-6-methyl-4-oxo-4H-pyran-2-carboxylic acid | 7.69 mmol, 2.0 g | C(C1=CC=CC=C1)OC1=C(OC(=CC1=O)C)C(=O)O | C14H12O5
reactant | Diethylamine | 9.2 mmol, 1.08 ml | C(C)NCC | C4H11N
reactant | methylamine | CN | CH5N
reactant | methanol | 15.4 mmol, 2M, 11 ml | CO | CH4O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-(Benzyloxy)-N,N-diethyl-1,6-dimethyl-4-oxo-1,4-dihydropyridine-2-carboxamide | 1.74 g, yield 67% | C(C1=CC=CC=C1)OC1=C(N(C(=CC1=O)C)C)C(=O)N(CC)CC | C19H24N2O3
